US07939533B2
c) 2-(3,5-Dichloro-phenyl)-2-methyl-propionyl Chloride
To a solution of 8.3 g (35.6 mmol) 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid in 80 ml CH2Cl2 and 4 drops DMF 6.1 ml (71.2 mmol) oxalyl chloride was added at 0° C. and the resulting mixture stirred for 12 h After evaporation of the solvent 8.3 g (93%) 2-(3,5-dichloro-phenyl)-2-methyl-propionyl chloride was obtained as a light yellow oil, which was used without further purification.

reactant | 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid | 35.6 mmol, 8.3 g | ClC=1C=C(C=C(C1)Cl)C(C(=O)O)(C)C | C10H10Cl2O2
reactant | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 71.2 mmol, 4 drops | CN(C)C=O | C3H7NO
product | 2-(3,5-Dichloro-phenyl)-2-methyl-propionyl Chloride | ClC=1C=C(C=C(C1)Cl)C(C(=O)Cl)(C)C | C10H9Cl3O
